US06174881B1
A solution of 3.45 g of 7-iodo-5-(2-pyridyl)-3H-1,4-benzodiazepin-2(1H)-one in 80 ml of hexamethylphosphoric acid triamide (HMPT) was treated with 4.24 g of Lawesson reagent and the mixture was stirred at 105° C. for 3.5 h. The reaction mixture was poured into 600 ml of saturated aqueous sodium hydrogen carbonate solution and 2 l of water. After stirring at room temperature for 30 min. the precipitate was filtered off. There were obtained 3.0 g of crude, yellow 7-iodo-5-(2-pyridyl)-3H-1,4-benzodiazepine-2(1H)-thione, m.p. 242° C., which was used in this form for the next step.

reactant | 7-iodo-5-(2-pyridyl)-3H-1,4-benzodiazepin-2(1H)-one | 3.45 g | IC=1C=CC2=C(C(=NCC(N2)=O)C2=NC=CC=C2)C1 | C14H10IN3O
reactant | Lawesson reagent | 4.24 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | sodium hydrogen carbonate | 600 ml | C(O)([O-])=O.[Na+]
reactant | water | 2 l | O | H2O
solvent | hexamethylphosphoric acid triamide | 80 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 7-iodo-5-(2-pyridyl)-3H-1,4-benzodiazepine-2(1H)-thione | IC=1C=CC2=C(C(=NCC(N2)=S)C2=NC=CC=C2)C1 | C14H10IN3S
